US05703273
A solution of paraformaldehyde (4.0 g, 0.122 mole), ethanolamine (12 g, 0.2 mole), triisopropylphosphite (20.9 g, 0.1 mole) and 50 mL of isopropanol was stirred at 90° C. for 16 hours. The isopropanol was removed under vacuum and 50 mL of conc. HCl was added in one portion. The solution was heated at reflux for 6 hours after which time it was assayed by 31P-NMR. N-(2-Hydroxyethyl)aminomethylphosphonic acid was obtained in 78% yield.

reactant | paraformaldehyde | 0.122 mole, 4.0 g | C=O | CH2O
reactant | ethanolamine | 0.2 mole, 12 g | C(O)CN | C2H7NO
reactant | triisopropylphosphite | 0.1 mole, 20.9 g | C(C)(C)OP(OC(C)C)OC(C)C | C9H21O3P
solvent | isopropanol | 50 mL | C(C)(C)O | C3H8O
product | N-(2-Hydroxyethyl)aminomethylphosphonic acid | 78% yield | OCCNCP(O)(O)=O | C3H10NO4P
